US08541588B2
2,4-difluoro-5-methylbenzenesulfonyl chloride
Chlorosulfonic acid (5.2 mL, 0.078 mol) was added dropwise to a solution of 2,4-difluorotoluene (4.00 g, 0.0312 mol) in chloroform (75 mL, 0.94 mol). The reaction was stirred 2 hours. Additional chlorosulfonic acid (3.1 mL, 0.047 mol) was added and stirring was continued for 18 hours. The reaction was evaporated to an oil and poured onto ice. The mixture was extracted two times with ethyl ether. The combined organic phase was dried over magnesium sulfate and treated with activated carbon. The mixture was filtered through diatomaceous earth and the filtrate was evaporated to give 5.31 g of light brown oil.

reactant | Chlorosulfonic acid | 0.078 mol, 5.2 mL | ClS(=O)(=O)O | ClHO3S
reactant | 2,4-difluorotoluene | 0.0312 mol, 4.00 g | FC1=C(C=CC(=C1)F)C | C7H6F2
reactant | chloroform | 0.94 mol, 75 mL | C(Cl)(Cl)Cl | CHCl3
reactant | chlorosulfonic acid | 0.047 mol, 3.1 mL | ClS(=O)(=O)O | ClHO3S
product | 2,4-difluoro-5-methylbenzenesulfonyl chloride | 5.31 g | FC1=C(C=C(C(=C1)F)C)S(=O)(=O)Cl | C7H5ClF2O2S
